*
.SUBCKT BAS70W 1 3
* The Resistor R1 does not reflect
* a physical device.  Instead it
* improves modeling in the reverse
* mode of operation.
R1 1 3 1.409E+09
D1 1 3 BAS70W

.MODEL BAS70W D
+(
+ IS = 3.22E-09
+ N = 1.018
+ BV = 77
+ IBV = 1.67E-07
+ RS = 20.89
+ CJO = 1.655E-12
+ VJ = 0.349
+ M = 0.3583
+ FC = 0.5
+ TT = 0
+ EG = 0.69
+ XTI = 2
+)
.ENDS
*